US07674741B2
2-Isopropyl-γ-butyrolactone
In a 250 mL autoclave a mixture of 2-isopropylidene-γ-butyrolactone (10.5 g) and Pd-catalyst (10 wt. % Pd on carbon, 0.050 g) in ethanol (10 mL) was treated with hydrogen (6 bar) at 60° C. for 18 h. Upon completion of the hydrogenation, the mixture was filtered and concentrated on a rotary evaporator to give 9.70 g (91%) of the title compound.

reactant | 2-isopropylidene-γ-butyrolactone | 10.5 g | C(C)(C)=C1C(=O)OCC1 | C7H10O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd | 0.050 g | [Pd] | Pd
product | 2-Isopropyl-γ-butyrolactone | 9.70 g, 91% | C(C)(C)C1C(=O)OCC1 | C7H12O2
